US05550240
4.59 (25 mmoles) of 2,4,6-trichloropyrimidine are added to a solution of 6.23 g (55 mmoles) of 5-amino-4,4-dimethyl-1-pentene in 50 ml of tetrahydrofuran at room temperature, the reaction mixture is stirred at the same temperature for 4 hours, then evaporated. The evaporation residue is distributed between 60 ml of chloroform and 5 ml of 10% sodium hydroxide solution. After separation the organic phase is washed 4 times with 10 ml of water each, then dried and evaporated. The evaporation residue is subjected to chromatography on a silica gel column by using mixtures of hexane and ethyl acetate as eluents. Elution with a 19:1 hexane/ethyl acetate mixture gives 4,6-dichloro-2-[(2,2-dimethyl-4-penten-1-yl)amino]pyrimidine as an oily product in a yield of 2.62 g (40.3%).

reactant | 2,4,6-trichloropyrimidine | ClC1=NC(=CC(=N1)Cl)Cl | C4HCl3N2
reactant | 5-amino-4,4-dimethyl-1-pentene | 55 mmoles, 6.23 g | NCC(CC=C)(C)C | C7H15N
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 4,6-dichloro-2-[(2,2-dimethyl-4-penten-1-yl)amino]pyrimidine | ClC1=NC(=NC(=C1)Cl)NCC(CC=C)(C)C | C11H15Cl2N3
